US06723733B2
5,6-Dihydro-N-[2-(1-piperidinyl)ethyl]-6-oxo-2-phenanthridinesulfonamide hydrogen chloride
Prepared from 2-(6(5H)-phenanthridinone)sulfonyl chloride 4 and 1-(2-aminoethyl)piperidine according to General Procedure A. A hydrogen chloride salt was formed upon adding 1N HCl to a solution of 5,6-dihydro-N-[2-(1-piperidinyl)ethyl]-6-oxo-2-phenanthridinesulfonamide in dioxane at 70° C. The was cooled down to 0° C. produced a salt precipitation which was collected by filtration to give a white solid (53% yield from 4), mp 262-267° C. 1H-NMR (400 MHz, CDCl3), 8.79 (s, 1H), 8.56 (d, J=8.1 Hz, 1H), 8.36 (d, J=7.2 Hz, 1H), 7.93 (m, 2H), 7.75 (t, J=7.5 Hz, 1H), 7.54 (d, J=8.7 Hz, 1H), 3.41 (d, J=12.2 Hz, 2H), 3.14 (m, 4H), 2.89 (t, 2H). 1.71 (m, 1H). Anal. (C20H24N3O3S.HCl.0.4 H2O), C H N.

reactant | HCl | 1N | Cl | ClH
reactant | 5,6-dihydro-N-[2-(1-piperidinyl)ethyl]-6-oxo-2-phenanthridinesulfonamide | N1(CCCCC1)CCNS(=O)(=O)C1=CC=2C3=CC=CC=C3C(NC2C=C1)=O | C20H23N3O3S
reactant | H2O | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5,6-Dihydro-N-[2-(1-piperidinyl)ethyl]-6-oxo-2-phenanthridinesulfonamide hydrogen chloride | Cl.N1(CCCCC1)CCNS(=O)(=O)C1=CC=2C3=CC=CC=C3C(NC2C=C1)=O | InChI=1S/C20H23N3O3S.ClH/c24-20-17-7-3-2-6-16(17)18-14-15(8-9-19(18)22-20)27(25,26)21-10-13-23-11-4-1-5-12-23;/h2-3,6-9,14,21H,1,4-5,10-13H2,(H,22,24);1H
